US07442805B2
Synthesis of N-{[1-methyl-3-phenyl-5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indol-2-yl]carbonyl}-L-leucine
The title compound was prepared from methyl N-[(5-amino-1-methyl-3-phenyl-1H-indol-2-yl)carbonyl]-L-leucinate and 4-trifluoromethoxybenzenesulfonyl chloride followed the procedure of Example 1 Step 3 as a brown solid: 1H NMR (DMSO-d6) δ 0.79 (d, J=6.3 Hz, 3H, 0.80 (d, J=6.3 Hz, 3H, 1.35-1.60 (m, 3H, 3.75 (s, 3H, 4.25-4.35 (m, 1H, 7.03 (dd, J=8.8, 2.0 Hz, 1H, 7.24 (d, J=1.4 Hz, 1H, 7.25-7.40 (m, 5H, 7.47 (d, J=8.9 Hz, 1H, 7.55 (d, J=7.9 Hz, 2H, 7.77 (d, J=7.9 Hz, 2H, 8.77 (d, J=7.9 Hz, 1H, 9.99 (s, 1H, 12.64 (br s, 1H; MS (ESI) m/z 604 (MH+), MS (ESI) m/z 602 [M-H]−; HRMS calcd for C29H29F3N3O6S: 604.1727; found (ESI+): 604.1716; Anal. calcd for C29H28F3N3O6S.0.4H2O: C, 57.02; H, 4.75; N, 6.96. Found: C, 56.70; H, 4.75; N, 6.94.

reactant | methyl N-[(5-amino-1-methyl-3-phenyl-1H-indol-2-yl)carbonyl]-L-leucinate | NC=1C=C2C(=C(N(C2=CC1)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C1=CC=CC=C1 | C23H27N3O3
reactant | 4-trifluoromethoxybenzenesulfonyl chloride | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | N-{[1-methyl-3-phenyl-5-({[4-(trifluoromethoxy)phenyl]sulfonyl}amino)-1H-indol-2-yl]carbonyl}-L-leucine | CN1C(=C(C2=CC(=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)OC(F)(F)F)C1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O | C29H28F3N3O6S
